US07608629B2
Preparation 96. 4-[6-(2-Chloro-6-fluoro-benzoylamino)-pyridin-2-yloxy]-2-methyl-piperidine-1-carboxylic acid tert-butyl ester cis isomer 1
Combine 4-(6-Amino-pyridin-2-yloxy)-2-methyl-piperidine-1-carboxylic acid tert-butyl ester cis isomer 1 (preparation 63, 0.286 g, 0.93 mmol), 1,4-dioxane (10 mL), triethylamine (0.16 mL, 1.12 mmol) and 2-chloro-6-fluorobenzoyl chloride (0.215 g, 1.12 mmol) with stirring at ambient temperature. After 2 hr., partition between water (50 mL) and 4:1 hexane:ethyl acetate (100 mL). Separate aqueous layer and wash with 4:1 hexane:ethyl acetate (50 mL). Combine organic layers, dry over sodium sulfate, filter and concentrate to obtain the title compound (0.53 g>100%). Mass spectrum (electrospray): m/z=462.3 (M−1); 1H NMR (CDCl3): 7.9 (m, 2H), 7.65 (dd, 1H), 7.4 (m, 1H), 7.25 (m, 1H), 7.1 (dd, 1H), 6.5 (d, 1H), 5.25 (m, 1H), 4.35 (m, 1H), 3.9 (m, 1H), 3.25 (m, 1H), 1.9 (m, 3H), 1.7 (m, 1H), 1.45 (s, 9H), 1.3 (d, 3H).

reactant | 4-(6-Amino-pyridin-2-yloxy)-2-methyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CC(CC1)OC1=NC(=CC=C1)N)C | C16H25N3O3
reactant | triethylamine | 1.12 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-6-fluorobenzoyl chloride | 1.12 mmol, 0.215 g | ClC1=C(C(=O)Cl)C(=CC=C1)F | C7H3Cl2FO
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-[6-(2-Chloro-6-fluoro-benzoylamino)-pyridin-2-yloxy]-2-methyl-piperidine-1-carboxylic acid tert-butyl ester | 0.53 g, 100% | C(C)(C)(C)OC(=O)N1C(CC(CC1)OC1=NC(=CC=C1)NC(C1=C(C=CC=C1F)Cl)=O)C | C23H27ClFN3O4
